US03956495
A solution of 7 g of morpholine in 25 ml of tetrahydrofuran was added dropwise to a solution of 7.2 g of 2-chloro-4-aminoquinazoline in 75 ml of tetrahydrofuran. After the addition was completed, the mixture was heated at reflux overnight. The reaction mixture was evaporated to dryness and the residue was recrystallized twice from ethanol to give 5 g of 2-morpholino-4-aminoquinazoline; m.p. 216°-219°. The following analytical data were obtained.

reactant | morpholine | 7 g | N1CCOCC1 | C4H9NO
reactant | 2-chloro-4-aminoquinazoline | 7.2 g | ClC1=NC2=CC=CC=C2C(=N1)N | C8H6ClN3
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 2-morpholino-4-aminoquinazoline | 5 g | O1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)N | C12H14N4O
